US09376441B2
To a mixture of 6-bromopyrazin-2-amine (5 g, 28.7 mmol) and di-tert-butyl dicarbonate (25.1 g, 115 mmol) was added DCM (10 mL) followed by DMAP (0.351 g, 29 mmol). The reaction was heated to 55° C. for 1 h and cooled to RT The reaction was partitioned between water and DCM, purified on silica gel and concentrated to afford 10.75 g of 2-Bis(tert-butoxycarbonyl)amino-6-bromopyrazine.

reactant | 6-bromopyrazin-2-amine | 28.7 mmol, 5 g | BrC1=CN=CC(=N1)N | C4H4BrN3
reactant | di-tert-butyl dicarbonate | 115 mmol, 25.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 29 mmol, 0.351 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Bis(tert-butoxycarbonyl)amino-6-bromopyrazine | 10.75 g | C(C)(C)(C)OC(=O)N(C1=NC(=CN=C1)Br)C(=O)OC(C)(C)C | C14H20BrN3O4
